US04331666
3-hydrazino-4-carboxy-6-chloro-pyridazine
A mixture of 3,6-dichloro-4-carboxy-pyridazine (20 g; 0.103 mole) and 22 ml of 98% hydrazine hydrate in 200 ml of 50% ethanol was refluxed, under stirring, for one hour. After cooling at 5° C., the solid precipitate was collected, washed with 20 ml of anhydrous ethanol. The solid was suspended in 100 ml of water, the mixture was brought to pH 1-2 with 23% HCl, after cooling at 5° C. the solid was filtered, dried under vacuum at 80° C. to give 18.29 g (93.4%) of the title compound, m.p. 198°-201° C.

reactant | 3,6-dichloro-4-carboxy-pyridazine | 0.103 mole, 20 g | ClC=1N=NC(=CC1C(=O)O)Cl | C5H2Cl2N2O2
reactant | hydrazine hydrate | 22 ml | O.NN
solvent | ethanol | 200 ml | C(C)O | C2H6O
product | 3-hydrazino-4-carboxy-6-chloro-pyridazine | 18.29 g, 93.4% | N(N)C=1N=NC(=CC1C(=O)O)Cl | C5H5ClN4O2
